US08309540B2
Step 1: Ethyl 2,2-dimethylpent-4-ynoate
A solution of n-BuLi (199 mL, 498 mmol) as 2.5M in hexane was added slowly to a stirred solution of DIPA (74.3 mL, 521 mmol) in anhydrous THF (500 mL), at −75° C. and under nitrogen. The solution was stirred for 20 minutes, and a solution of ethyl isobutyrate (64 mL, 474 mmol) in THF (100 mL) was added dropwise to the solution over 1.5 hours. The solution was warmed to 0° C. and recooled to −75° C., then a solution of propargyl bromide (53.6 mL, 498 mmol) as 80% in PhMe was added dropwise. The reaction solution was slowly warmed to 22° C. and stirred for 20 hours, then quenched with water (150 mL). The water layer was extracted with ether (2×200 mL). The combined organic layer was washed with water (150 mL), brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica gel 60 eluting with 0 to 25% EtOAc in hexane, to give the title product. 1H NMR (500 MHz, CDCl3) δ 4.12 (q, J=7.1 Hz, 2H); 2.41 (s, 2H); 1.98 (s, 1H); 1.25 (s, 6H); 1.23 (t, J=7.1 Hz, 3H) ppm.

reactant | n-BuLi | 498 mmol, 199 mL | [Li]CCCC
reactant | ethyl isobutyrate | 474 mmol, 64 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | propargyl bromide | 498 mmol, 53.6 mL | C(C#C)Br | C3H3Br
solvent | hexane | CCCCCC | C6H14
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,2-dimethylpent-4-ynoate | CC(C(=O)OCC)(CC#C)C | C9H14O2
